US03975384
5-Chloro-6-cyano-2-piperazino-4-(1,1-dioxido-thiomorpholino)pyrimidine
1.8 gm (0.005 mol) of 5-chloro-6-cyano-4-(1,1-dioxido-thiomorpholino)-2-ethylsulfonyl-pyrimidine (m.p. 234°-237°C, obtained from 2-ethylthio-5-chloro-6-cyano-4-thiomorpholino-pyrimidine by oxidation with potassium permanganate in dilute hydrochloric acid) were slowly added to a solution of 2.6 gm (0.03 mol) of piperazine in 50 ml of dioxane. After standing for a short time, the reaction solution was evaporated almost to dryness in vacuo, and the residue was taken up in about 50 ml of water. The insoluble reaction product was suction-filtered off, washed with water and dried. Yield: 1.4 gm (78% of theory).

reactant | 5-chloro-6-cyano-4-(1,1-dioxido-thiomorpholino)-2-ethylsulfonyl-pyrimidine | 0.005 mol, 1.8 gm | ClC=1C(=NC(=NC1C#N)S(=O)(=O)CC)N1CCS(CC1)(=O)=O | C11H13ClN4O4S2
reactant | piperazine | 0.03 mol, 2.6 gm | N1CCNCC1 | C4H10N2
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 5-Chloro-6-cyano-2-piperazino-4-(1,1-dioxido-thiomorpholino)pyrimidine | ClC=1C(=NC(=NC1C#N)N1CCNCC1)N1CCS(CC1)(=O)=O | C13H17ClN6O2S
